US05969139
3-Amino-5,5-dimethyl-2-cyclohexen-1-one was reacted with 3-phenylbenzaldehyde in an analogous manner to that described in Example 1 to give 9-(3-biphenylyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from ethanol gave a pale yellow crystalline solid of melting point 227-229° C.

reactant | 3-Amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-phenylbenzaldehyde | C1(=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O
product | 9-(3-biphenylyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | C1(=CC(=CC=C1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O)C1=CC=CC=C1 | C29H31NO2
